US08431575B2
To a solution of (±)-cis-4-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxymethyl]-3-methoxy-piperidine-1-carboxylic acid tert-butyl ester (0.36 mmol, 0.20 g) in DCM (1 mL) was added 4 N HCl in dioxane (1 mL). The solution was stirred for 1 hour. The solvents were removed with reduced pressure and the salt was triturated with diethyl ether and filtered to give (±)-cis-3-butyl-4-(4-cyclohexyloxy-phenyl)-6-(3-methoxy-piperidin-4-ylmethoxy)-pyridazine dihydrochloride (0.17 g).

reactant | (±)-cis-4-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxymethyl]-3-methoxy-piperidine-1-carboxylic acid tert-butyl ester | 0.36 mmol, 0.20 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)COC=1N=NC(=C(C1)C1=CC=C(C=C1)OC1CCCCC1)CCCC)OC | C32H47N3O5
reactant | HCl | 4 N | Cl | ClH
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | (±)-cis-3-butyl-4-(4-cyclohexyloxy-phenyl)-6-(3-methoxy-piperidin-4-ylmethoxy)-pyridazine dihydrochloride | 0.17 g | Cl.Cl.C(CCC)C=1N=NC(=CC1C1=CC=C(C=C1)OC1CCCCC1)OC[C@@H]1[C@@H](CNCC1)OC | InChI=1S/C27H39N3O3.2ClH/c1-3-4-10-25-24(20-11-13-23(14-12-20)33-22-8-6-5-7-9-22)17-27(30-29-25)32-19-21-15-16-28-18-26(21)31-2;;/h11-14,17,21-22,26,28H,3-10,15-16,18-19H2,1-2H3;2*1H/t21-,26-;;/m1../s1
